US05013482
Sodium metal (2.3 g; 0.1 mole) is dissolved in methanol (160 g; 5 moles). The solution is heated to reflux and treated dropwise over 2 hours with isooctyl glycidyl ether (186 g; 1 mole). After complete addition, the reaction mixture is maintained under reflux conditions for a further 6 hours. After cooling to ambient temperature, the reaction mixture is treated with acetic acid (5.8 g; 0.1 mole) and then the excess solvent is removed under vacuum. The oily residue is treated with water (250 ml) and then extracted with ether (250 ml). The ether extract is dried over MgSO4, filtered and evaporated. The residue is distilled under vacuum to yield 1-isooctyl-3-methyl glycerol, as a colourless oil, bp 75°-80° C./0.07 mbar, yield 145.6 g (67%).

reactant | Sodium | 0.1 mole, 2.3 g | [Na] | Na
reactant | methanol | 5 moles, 160 g | CO | CH4O
reactant | isooctyl glycidyl ether | 1 mole, 186 g | C(C1CO1)OCCCCCC(C)C | C11H22O2
reactant | acetic acid | 0.1 mole, 5.8 g | C(C)(=O)O | C2H4O2
product | 1-isooctyl-3-methyl glycerol | C(CCCCC(C)C)OCC(O)COC | C12H26O3
